** sch_path: /foss/pdks/gf180mcuD/libs.tech/xschem/tests/test_pfet_03v3.sch
**.subckt test_pfet_03v3
XM1 D G S B pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
**** begin user architecture code


vg g 0 0
vd d 0 0
vs s 0 3.3
vb b 0 3.3
.control
save all
dc vd 0 3.3 0.01 vg 0 3.3 0.3
write test_pfet_03v3.raw
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends
.end
