** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/ota_2stage_test/ota_2stage_test.sch
**.subckt ota_2stage_test
x1 vcm vin_p vin_n net4 net1 ota_bhv rout=10e6 dc_gain=5000
x2 vcm net1 net4 vout_p vout_n ota_bhv rout=100e3 dc_gain=100
C3 vout_n net2 {cc}
R3 net2 net1 {rc}
C4 vout_p net3 {cc}
R4 net3 net4 {rc}
V3 vin_cm vss {vin_cm}
V5 vin_p vin_cm DC 0 AC 0.5 0
V4 vin_n vin_cm DC 0 AC 0.5 180
C1 vout_p vss {cl}
C2 vout_n vss {cl}
V2 vdd vss 3.3
V6 vss 0 0
V1 vcm vss 1.65
**** begin user architecture code

.param cl=10p
.param rc=10k
.param cc=1p


.param vin_cm=0.8
.param vout_cm=1
.control
ac dec 10 1 1G
setplot ac1
let vdiff = v(vout_p) - v(vout_n)
plot vdb(vdiff)
set units=degrees
plot phase(vdiff)
.endc

**** end user architecture code
**.ends

* expanding   symbol:  ota_bhv/ota_bhv.sym # of pins=5
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/ota_bhv/ota_bhv.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/ota_bhv/ota_bhv.sch
.subckt ota_bhv vcm vin_p vin_n vout_p vout_n  rout=1e6 dc_gain=1000
*.iopin vcm
*.iopin vin_p
*.iopin vin_n
*.iopin vout_p
*.iopin vout_n
G1 vout_n vcm vin_p vin_n {0.5*dc_gain/rout}
R1 vout_n vcm {rout}
G2 vout_p vcm vin_n vin_p {0.5*dc_gain/rout}
R2 vout_p vcm {rout}
.ends

.end
